US06720330B2
Preparation of Tos-L-Tic
To a solution of 100 mg of Tos-L-Tic (0.30 mmol), 122 mg of Arg(NO2)—OMe HCl (0.45 mmol), 61 mg of hydroxybenzotriazole (0.39 mmol), and 184 mg of 4-dimethylaminopyridine (1.51 mmol) in 50 mL of methylene chloride as added 174 mg (0.78 mmol) of 1,3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride. After stirring for 15 hours, 100 mL of additional methylene chloride was added to the reaction, and it was washed three times with 30 mL portions of 10% aqueous hydrochloric acid solution, then twice with 20 mL of 50% saturated sodium bicarbonate solution, and finally once with 20 mL of saturated brine. The product was then dried over anhydrous magnesium sulfate, filtered, and the solvent removed under reduced pressure. The product was next dissolved in 20 mL of methanol, and 230 mg of 10% palladium on carbon was added under nitrogen, followed by addition of 1 mL of formic acid, after which the reaction stirred for 15 hours. The catalyst was filtered off, and the solvent was then removed rapidly under reduced pressure to yield 22 mg of product. This material can also be synthesized by coupling a suitably protected arginine fragment with a suitably protected Tic fragment, deprotecting the Tic amino group, condensing this material with p-toluenesulfonyl chloride, and finally, deprotecting the arginine sidechain.

reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Tic | N1[C@@H](CC2=CC=CC=C2C1)C(=O)O | C10H11NO2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | Tos-L-Tic | N1([C@@H](CC2=CC=CC=C2C1)C(=O)O)S(=O)(=O)C1=CC=C(C)C=C1 | C17H17NO4S
